US09422279B2
Compound Q Preparation of 2-methoxy-5-[[2-(2-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde
Into a 100-mL round-bottom flask, was placed a solution of 3-(chloromethyl)-2-(2-methoxyphenyl)pyridine (306 mg, 1.31 mmol, 1.00 equiv) in CH3CN (20 mL). 5-Hydroxy-2-methoxypyridine-4-carbaldehyde (200 mg, 1.31 mmol, 1.00 equiv), potassium carbonate (364 mg, 2.63 mmol, 2.00 equiv), and KI (44 mg, 0.27 mmol, 0.20 equiv) were added to the reaction mixture. The resulting solution was stirred for 5 h at 60° C., and then it was concentrated under vacuum. The crude product (200 mg) was purified by Prep-HPLC with the following conditions (Prep-HPLC-010): Column, SunFire Prep C18 OBD Column, 5 um, 19*150 mm; mobile phase, water with 0.1% HCOOH and MeCN (10.0% MeCN up to 40.0% in 10 min, up to 95.0% in 2 min, down to 10.0% in 2 min); Detector, Waters 2545 UvDector 254 & 220 nm. This resulted in 65 mg (9%) of 2-methoxy-5-[[2-(2-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde bis(trifluoroacetic acid) as a yellow solid. The compound exhibited a melting point of 105-107° C. 1HNMR (300 MHz, CDCl3) δ 10.32 (s, 1H), 8.69 (s, 1H), 7.93 (m, 2H), 7.36 (m, 3H), 6.99 (m, 3H), 5.35 (s, 2H), 3.86 (m, 6H); MS (ESI) m/z 351 [M+H]+.

reactant | 3-(chloromethyl)-2-(2-methoxyphenyl)pyridine | 1.31 mmol, 306 mg, 1.00 equiv | ClCC=1C(=NC=CC1)C1=C(C=CC=C1)OC | C13H12ClNO
reactant | 5-Hydroxy-2-methoxypyridine-4-carbaldehyde | 1.31 mmol, 200 mg, 1.00 equiv | OC=1C(=CC(=NC1)OC)C=O | C7H7NO3
reactant | potassium carbonate | 2.63 mmol, 364 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 2-methoxy-5-[[2-(2-methoxyphenyl)pyridin-3-yl]methoxy]pyridine-4-carbaldehyde | COC1=NC=C(C(=C1)C=O)OCC=1C(=NC=CC1)C1=C(C=CC=C1)OC | C20H18N2O4
